US06943184B2
Preparation N: tert-Butyl (2E)-3-(3-pyridyl)-2-propenoate
Ethereal HCl is added to a solution of 45 g of (2E)-3-(3-pyridyl)-2-propenoic acid in 300 ml of ether until the pH is acid. The precipitate obtained is filtered off, washed with ether and dried under reduced pressure. The product is then taken up in 600 ml of thionyl chloride and heated at reflux for 2 hours, and is then concentrated under reduced pressure and taken up successively in toluene and then ether. The residue obtained is then diluted with 1 liter of tetrahydrofuran, stirred at 5° C., and 67 g of potassium tert-butanolate in 2.5 liters of tetrahydrofuran are added. After reacting for 3 hours at 5° C. and for 1 hour at 20° C., the reaction mixture is subjected to customary treatment, allowing the expected product to be obtained after evaporation under reduced pressure.

reactant | HCl | Cl | ClH
reactant | (2E)-3-(3-pyridyl)-2-propenoic acid | 45 g | N1=CC(=CC=C1)/C=C/C(=O)O | C8H7NO2
reactant | potassium tert-butanolate | 67 g | C(C)(C)(C)[O-].[K+]
solvent | ether | 300 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 1 liter | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.5 liters | O1CCCC1 | C4H8O
product | tert-Butyl (2E)-3-(3-pyridyl)-2-propenoate | N1=CC(=CC=C1)/C=C/C(=O)OC(C)(C)C | C12H15NO2
